US05413905
Preparation of 2-Chloro-5-methoxycarbonylbenzoxazole
In a round bottom flask equipped with a magnetic stirrer, nitrogen inlet, reflux condenser and drying tube were placed 5-methoxycarbonylbenzoxazolthione (5.2 g, 0.025 mole), phosphorus pentachloride (5.2 g, 0,025 mole), and phosphorus oxychloride (40 mL). The reaction mixture was heated by an oil bath at 95°-100° C. for 4 hours. The reaction mixture was allowed to cool to room temperature and filtered. The filtrate was distilled with a short path distillation apparatus and the product was collected at 160°-163° C. at 29 mm Hg. The product solidified on standing to give a pale yellow solid, m.p. 104°-106° C. Anal Calcd. for C9H6ClNO3: C, 51.1; H, 2.9; N, 6.6; Cl, 16.8. Found: C, 50.7; H, 2.9; N, 6.6; Cl, 16.3

reactant | 5-methoxycarbonylbenzoxazolthione | 0.025 mole, 5.2 g | COC(=O)C=1C=CC2=C(NC(O2)=S)C1 | C9H7NO3S
reactant | phosphorus pentachloride | 0,025 mole, 5.2 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | phosphorus oxychloride | 40 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-5-methoxycarbonylbenzoxazole | ClC=1OC2=C(N1)C=C(C=C2)C(=O)OC | C9H6ClNO3
